US04268446
23.7 g (0.338 mole) of methyl vinyl ketone were added over 5 minutes to a solution of 9.7 g (0.36 mole) of liquid hydrocyanic acid and 34 g of nitromethane whilst stirring, and thereafter 0.5 g of triethylamine was added slowly, first at -20° C. and then at -25° C. The reaction mixture was then kept at -20° C. for 1.5 hours. After acidifying the mixture with 1 g of phosphoric acid, 51.4 g (0.338 mole) of trimethylhydroquinone and 180 g of toluene were added, and 23.0 g (0.338 mole) of BF3 were then passed in over 1.5 hours at -10° C. After stirring for one hour at -5° C., the mixture was brought to room temperature and stirred for 5 hours. Working up by the method described in Example 1 gave pure 2-cyanochromane in 78% yield.

reactant | methyl vinyl ketone | 0.338 mole, 23.7 g | C(=C)C(=O)C | C4H6O
reactant | hydrocyanic acid | C#N | CHN
reactant | phosphoric acid | 1 g | P(O)(O)(O)=O | H3O4P
reactant | trimethylhydroquinone | 0.338 mole, 51.4 g | CC=1C(=C(C(=C(O)C1)C)C)O | C9H12O2
reactant | BF3 | 0.338 mole, 23.0 g | B(F)(F)F | BF3
solvent | toluene | 180 g | C1(=CC=CC=C1)C | C7H8
solvent | triethylamine | 0.5 g | C(C)N(CC)CC | C6H15N
solvent | nitromethane | 34 g | [N+](=O)([O-])C | CH3NO2
product | 2-cyanochromane | 78% yield | C(#N)C1OC2=CC=CC=C2CC1 | C10H9NO
